US05374632
A solution of 84.3 g of 6-chloro-8-methyl-1,2,4-triazolo [4,3-b]pyridazine, 62.4 g of 1,2,5,6-tetrahydropyridine and 101 g of triethylamine in one liter of ethanol was refluxed under nitrogen for 21 hours. The bulk of the solvent was removed at the rotary evaporator. The residual semi-solid was dissolved in 1000 ml of dichloromethane and washed with 500 ml of saturated sodium bicarbonate solution. The aqueous layer was back washed with fresh dichloromethane (2×200 ml) and the combined organic layers were dried over anhydrous sodium sulfate. Evaporation of the solvent gave a light-brown oil which slowly solidified. This was taken up in 230 ml of hot ethyl acetate and cooled. After cooling the mixture slowly to room temperature and then to 5° C., the cream colored needles which formed were collected, washed with ethyl ether/ethyl acetate (2/1) then with ethyl ether and dried to give 8-methyl-6-(1,2,5,6-tetrahydropyridin-1-yl)-1,2,4-triazolo-[4,3-b]pyridazine melting at about 103°-106° C.

reactant | 6-chloro-8-methyl-1,2,4-triazolo [4,3-b]pyridazine | 84.3 g | ClC=1C=C(C=2N(N1)C=NN2)C | C6H5ClN4
reactant | 1,2,5,6-tetrahydropyridine | 62.4 g | N1CC=CCC1 | C5H9N
reactant | triethylamine | 101 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | one liter | C(C)O | C2H6O
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
product | 8-methyl-6-(1,2,5,6-tetrahydropyridin-1-yl)-1,2,4-triazolo-[4,3-b]pyridazine | CC=1C=2N(N=C(C1)N1CC=CCC1)C=NN2 | C11H13N5
